US04670541
(B) (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester
A solution of L-alanyl-L-proline t-butyl ester (1.0 g, 4.13 mmol), N-[(t-butyloxy)carbonyl]-L-phenylalanine chloromethyl ketone (1.2 g, 4.03 mmol), sodium bicarbonate (370 mg, 4.4 mmol) and sodium iodide (300 mg, 2 mmol) in dimethylformamide (7 ml) was stirred overnight at room temperature. The reaction mixture was evaporated. Dioxane (6 ml) was added to the residue followed by benzyloxycarbonyl chloride (0.75 ml, 5.24 mmol) and sodium bicarbonate (500 mg, 5.95 mmol). After stirring overnight, the reaction mixture was evaporated, the residue taken up in ethyl acetate and washed neutral (water, saturated sodium bicarbonate solution, water, 10% potassium bisulfate solution and water). The crude material (2.6 g) was chromatographed over silica gel (200 g) using the solvent system ethyl acetate:benzene-1:3 to obtain 1.32 g of the title compound.

reactant | L-alanyl-L-proline t-butyl ester | 4.13 mmol, 1.0 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C12H22N2O3
reactant | N-[(t-butyloxy)carbonyl]-L-phenylalanine chloromethyl ketone | 4.03 mmol, 1.2 g | ClCC(=O)CCl.C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O
reactant | sodium bicarbonate | 4.4 mmol, 370 mg | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 2 mmol, 300 mg | [I-].[Na+]
reactant | benzyloxycarbonyl chloride | 5.24 mmol, 0.75 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium bicarbonate | 5.95 mmol, 500 mg | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester | 1.32 g | C(C)(C)(C)OC(=O)N[C@H](C(CN([C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C35H47N3O8
